US03996230
In the manner given in Example 1, 1-bromo-8-chloro-9-(trifluoromethyl)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is heated with excess of piperazine to give 8-chloro-9-(trifluoromethyl)-1-piperazino-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1-bromo-8-chloro-9-(trifluoromethyl)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC1=NN=C2N1C1=C(C(=NC2)C2=NC=CC=C2)C=C(C(=C1)C(F)(F)F)Cl | C16H8BrClF3N5
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-chloro-9-(trifluoromethyl)-1-piperazino-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C(=CC2=C(C(=NCC=3N2C(=NN3)N3CCNCC3)C3=NC=CC=C3)C1)C(F)(F)F | C20H17ClF3N7
